US07977338B2
Step 3.3: [4-(3-Amino-pyridin-2-ylamino)-2-chloro-phenyl]-acetic acid ethyl ester
is obtained analogously to the method as described in Step 1.3 but using [2-chloro-4-(3-nitro-pyridin-2-ylamino)-phenyl]-acetic acid ethyl ester instead of [4-(3-nitro-pyridin-2-ylamino)-phenyl]-acetic acid methyl ester as a starting material, EtOH instead of MeOH as the solvent and the reaction mixture is stirred for 22 hours instead of 4 hours at rt. ES-MS: 306.1 [M+H]+; single peak at tR=3.06 min (System 1); Rf=0.16 (Hexane/EtOAc, 1:1).

reactant | [2-chloro-4-(3-nitro-pyridin-2-ylamino)-phenyl]-acetic acid ethyl ester | C(C)OC(CC1=C(C=C(C=C1)NC1=NC=CC=C1[N+](=O)[O-])Cl)=O | C15H14ClN3O4
reactant | EtOH | CCO | C2H6O
solvent | Hexane EtOAc | CCCCCC.CCOC(=O)C
product | [4-(3-Amino-pyridin-2-ylamino)-2-chloro-phenyl]-acetic acid ethyl ester | C(C)OC(CC1=C(C=C(C=C1)NC1=NC=CC=C1N)Cl)=O | C15H16ClN3O2
